US08809363B2
Step 5: tert-Butoxy-(2-methyl-4-p-tolyl-5,8-dihydro-6H-7-oxa-9-thia-1-aza-fluoren-3-yl)-acetic acid
Aqueous sodium hydroxide (2N, 2 mL, 4 mmol) was added to a stirred solution of tert-Butoxy-(2-methyl-4-p-tolyl-5,8-dihydro-6H-7-oxa-9-thia-1-aza-fluoren-3-yl)-acetic acid ethyl ester (66 mg, 0.15 mmol) in ethanol (2 mL) and tetrahydrofuran (2 mL) and the reaction was stirred for 2 hours at 60° C. The reaction was concentrated in vacuo until only the aqueous remained. The pH was adjusted to 2 by the addition of 2N aqueous HCl. The resulting solid was collected by filtration and purified by preparative HPLC to afford the title compound. LCMS 3.63 min, ES+/AP+ 425.1 (MH+).

reactant | sodium hydroxide | 4 mmol, 2N, 2 mL | [OH-].[Na+]
reactant | tert-Butoxy-(2-methyl-4-p-tolyl-5,8-dihydro-6H-7-oxa-9-thia-1-aza-fluoren-3-yl)-acetic acid ethyl ester | 0.15 mmol, 66 mg | C(C)OC(C(C=1C(=NC=2SC=3COCCC3C2C1C1=CC=C(C=C1)C)C)OC(C)(C)C)=O | C26H31NO4S
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | tert-Butoxy-(2-methyl-4-p-tolyl-5,8-dihydro-6H-7-oxa-9-thia-1-aza-fluoren-3-yl)-acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=NC=2SC=3COCCC3C2C1C1=CC=C(C=C1)C)C | C24H27NO4S
